US07511144B2
A solution of dimethylsulfoxide (1.1 mL, 15 mmol) in dichloromethane (5ml) was added to a cooled (−78° C.) solution of oxalyl chloride (0.67 mL, 7.5 mmol) in dichloromethane (50 mL) under an atmosphere of argon, and stirred for 10 minutes. Then a solution of 4-(2-hydroxyethyl)-3,3-dimethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (0.96 g, 3.7 mmol) in dichloromethane (5 mL) was added thereto and stirred for 15 minutes at −78° C. and subsequently for 45 minutes at −40° C. Then triethylamine (3.7 mL, 26.4 mmol) was added thereto and stirred for 30 minutes at room temperature. After the reaction was completed, saturated aqueous ammonium chloride solution was added, followed by extraction with ethyl acetate. The organic layer was washed with water three times and dried over anhydrous magnesium sulfate. After drying, it was filtered and the filtrate was concentrated under a reduced pressure. The residue was subjected to silica gel column chromatography (developing solvent, hexane:ethyl acetate=10:1 to 7:1) to obtain 0.39 g (yield 41.1%) of 3,3-dimethyl-4-(2-oxoethyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester (VII-152). Its physical property is shown below.

reactant | dimethylsulfoxide | 15 mmol, 1.1 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 7.5 mmol, 0.67 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(2-hydroxyethyl)-3,3-dimethyl-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 3.7 mmol, 0.96 g | C(C)(C)(C)OC(=O)N1CC(C(=CC1)CCO)(C)C | C14H25NO3
reactant | triethylamine | 26.4 mmol, 3.7 mL | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 5ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3,3-dimethyl-4-(2-oxoethyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid t-butyl ester | 0.39 g, yield 41.1% | C(C)(C)(C)OC(=O)N1CC(C(=CC1)CC=O)(C)C | C14H23NO3
